US08748429B2
(S)-1,2-Difluoro-3-(1-nitrohex-5-en-2-yl)benzene
In a 1 L round-bottom flask was dissolved (E)-1-nitrohexa-1,5-diene (12.30 g, 97 mmol) and 2,3-difluorophenylboronic acid (38.2 g, 242 mmol) in dioxane (315 mL) to give a colorless suspension. Water (6.1 mL, 340 mmol) was added. The mixture was degassed with nitrogen and in a sonicator for 20 min. Sodium bicarbonate (4.06 g, 48.4 mmol) and (S)-(+2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (1.807 g, 2.90 mmol) and acetylacetonatobis(ethylene)rhodium (I) (0.749 g, 2.90 mmol) were added to the solution under nitrogen. The mixture was stirred at rt for 2 min, and then heated to 35° C. for 6 h under nitrogen. Reaction was continued for another 8 h at 35° C.

reactant | (E)-1-nitrohexa-1,5-diene | 97 mmol, 12.30 g | [N+](=O)([O-])\C=C\CCC=C | C6H9NO2
reactant | 2,3-difluorophenylboronic acid | 242 mmol, 38.2 g | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
reactant | Water | 340 mmol, 6.1 mL | O | H2O
reactant | Sodium bicarbonate | 48.4 mmol, 4.06 g | C([O-])(O)=O.[Na+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 2.90 mmol, 1.807 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | dioxane | 315 mL | O1CCOCC1 | C4H8O2
catalyst | acetylacetonatobis(ethylene)rhodium (I) | 2.90 mmol, 0.749 g | C/C(=C/C(=O)C)/O.C=C.C=C.[Rh]
product | (S)-1,2-Difluoro-3-(1-nitrohex-5-en-2-yl)benzene | FC1=C(C(=CC=C1)[C@@H](C[N+](=O)[O-])CCC=C)F | C12H13F2NO2
